US04552585
The reaction vessel was dried and, under an argon atmosphere, 75.9 grams (0.75 mole) of diisopropylamine and 450 ml of tetrahydrofuran was added. The stirred solution was cooled to -70° C. and 48.0 grams (0.75 mole-484 ml of 1.5 molar in hexane) of n-butyl lithium was added. Upon completion of addition the reaction mixture stirred for 20 minutes and, at -70° C., 68.9 grams (0.675 mole) of methyl isobutyrate was added dropwise. Upon completion of addition the reaction mixture stirred for an additional 20 minutes and, at -70° C., 108.0 grams (0.75 mole) of 1-bromo-2-chloroethane was added dropwise. The reaction mixture was allowed to warm to ambient temperature where it stirred for 16 hours. After this time 500 ml of water, then 85 ml of concentrated hydrochloric acid, were added dropwise to the reaction mixture. Upon completion of addition the reaction mixture stirred for an additional five minutes. The organic layer was separated and washed with 150 ml of aqueous 10% hydrochloric acid. The combined aqueous layers were washed with 150 ml of methylene chloride. The combined organic layers were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was distilled under reduced pressure to give 84.2 grams of methyl 4-chloro-2,2-dimethylbutanoate; b.p. 80°-84° C./15 mm.

reactant | diisopropylamine | 0.75 mole, 75.9 grams | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.5 molar, 48.0 grams | C(CCC)[Li]
reactant | methyl isobutyrate | 0.675 mole, 68.9 grams | C(C(C)C)(=O)OC | C5H10O2
reactant | 1-bromo-2-chloroethane | 0.75 mole, 108.0 grams | BrCCCl | C2H4BrCl
reactant | hydrochloric acid | 85 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | methyl 4-chloro-2,2-dimethylbutanoate | 84.2 grams | ClCCC(C(=O)OC)(C)C | C7H13ClO2
